US07524486B2
An autoclave equipped with a stirrer and a temperature gage was charged with 270.5 g of octadecanol and 0.1 g of potassium hydroxide and the mixture was dehydrated at 120° C. under a vacuum of 2.6 kPa for one hour. Then, the mixture was cooled to 60° C. and 58.4 g of acrylonitrile was introduced into the autoclave over one hour, which was then kept as it was for one hour to complete the reaction. Next, 1.9 g of Raney nickel, 0.3 g of sodium hydroxide and 16.1 g of ion exchange water were introduced into the autoclave, which was then reacted for hydrogenation and reduction at 130° C. for 3 hours. Then, the reaction mixture was subjected to filtration to remove the catalyst, distilled and refined to obtain 294.3 g of a corresponding 3-octadecyloxypropylamine.

reactant | octadecanol | 270.5 g | C(CCCCCCCCCCCCCCCCC)O | C18H38O
reactant | acrylonitrile | 58.4 g | C(C=C)#N | C3H3N
catalyst | Raney nickel | 1.9 g | [Ni] | Ni
catalyst | potassium hydroxide | 0.1 g | [OH-].[K+]
catalyst | sodium hydroxide | 0.3 g | [OH-].[Na+]
solvent | water | O | H2O
product | 3-octadecyloxypropylamine | 294.3 g | C(CCCCCCCCCCCCCCCCC)OCCCN | C21H45NO
